US07425568B2
2-(3-Chlorophenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 730 mg of 2-(3-chloro-phenyl)-6-hydroxychroman-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 8.85 (s, 1H), 7.50 (d, 1H, J 1.7 Hz), 7.46-7.38 (m, 3H), 6.88 (d, 1H, J 2.5 Hz), 6.62 (d, 1H, J 8.6 Hz), 6.55 (dd, 1H, J 8.6, 2.5 Hz), 5.44 (d, 1H, J 6.6 Hz), 5.15 (dd, 1H, J 11.8, 1.4 Hz), 4.87 (m, 1H), 2.29 (m, 1H), 1.85 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 2-(3-chloro-phenyl)-6-hydroxychroman-4-one | 730 mg | ClC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11ClO3
product | 2-(3-Chlorophenyl)chroman-4,6-diol | ClC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13ClO3
